US04851409
Preparation of 3-(2-(7-chloroquinolin-2-yl)ethyl)benzonitrile
To a solution of 7-chloroquinaldine (17.7 g) in THF (80 mL) at -78° was added a solution of 100 mL lithium diisopropyl amide (LDA) (1M) dropwise. After addition the solution was warmed to -20° and added dropwise to 3-cyanobenzyl bromide (20 g) in THF (80 mL) at 0°. The reaction mixture was stirred 1 hr at 0° and warmed to room temperature (30 min). The mixture was partitioned between pH 7 buffer (25% NH4OAc) and ethyl acetate. The organic layer was dried and evaporated. Flash chromatography of the residue using 30% ether in hexane afforded the title compound.

reactant | 7-chloroquinaldine | 17.7 g | ClC1=CC=C2C=CC(=NC2=C1)C | C10H8ClN
reactant | lithium diisopropyl amide | 1M, 100 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-cyanobenzyl bromide | 20 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-(2-(7-chloroquinolin-2-yl)ethyl)benzonitrile | ClC1=CC=C2C=CC(=NC2=C1)CCC=1C=C(C#N)C=CC1 | C18H13ClN2
